US04895871
A solution of 3.3 grams (0.0124 mole) of 4-hydroxy4'-(2-methyl-2-propenoxy)benzophenone in 50 mL of methylene chloride was stirred under a nitrogen atmosphere and cooled to -25° C. To this was added 2.2 mL (0.0273 mole) of pyridine followed by 4.2 mL of trifluoromethanesulfonic anhydride, both via syringe. Upon completion of addition the reaction mixture was stirred at -25° C. for one hour and then was quenched with 10 mL of methanol. The reaction mixture was poured into 150 mL of ice-water. Methylene chloride, 50 mL, was added, and the mixture was placed in a separatory funnel. The mixture was shaken, and the organic layer was separated. The organic layer was washed with water and then with a cold saturated, aqueous solution of potassium dihydrogen phosphate. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to yield 4.6 grams of 4-(trifluoromethylsulfonyloxy)-4'-(2-methyl-2-propenoxy)benzophenone as a solid. The nmr spectrum was consistent with the proposed structure.

reactant | 4-hydroxy4'-(2-methyl-2-propenoxy)benzophenone | 0.0124 mole, 3.3 grams | OC1=CC=C(C(=O)C2=CC=C(C=C2)OCC(=C)C)C=C1 | C17H16O3
reactant | pyridine | 0.0273 mole, 2.2 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 4.2 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(trifluoromethylsulfonyloxy)-4'-(2-methyl-2-propenoxy)benzophenone | 4.6 grams | FC(S(=O)(=O)OC1=CC=C(C(=O)C2=CC=C(C=C2)OCC(=C)C)C=C1)(F)F | C18H15F3O5S
